US04490374
One equivalent of 6,7-dimethoxy-4-methyl-2(1H)quinazolinone is added during 3/4 hr. to a mixture (5:1) of 6 equivalents of concentrated nitric acid (70%) and concentrated H2SO4 at 0°±3° C. After one hour at the same temperature the solution is poured onto crushed ice (1000 ml). The crude product is collected by filtration, digested with boiling alcohol and the suspension is filtered. Crystallization from ethyl alcohol affords 6,7-dimethoxy-5-nitro-4-methyl-2(1H)quinazolinone.

reactant | 6,7-dimethoxy-4-methyl-2(1H)quinazolinone | One equivalent | COC=1C=C2C(=NC(NC2=CC1OC)=O)C | C11H12N2O3
reactant | nitric acid | 6 equivalents | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 6,7-dimethoxy-5-nitro-4-methyl-2(1H)quinazolinone | COC=1C(=C2C(=NC(NC2=CC1OC)=O)C)[N+](=O)[O-] | C11H11N3O5
